US06864265B2
4-Methylene-3,4-dihydro-2H-pyrano[3,2-b]pyridine
A reaction tube was charged with 2-Bromo-3-but-3-enyloxy-pyridine (106 mg, 0.45 mmol), triphenylphosphine (35 mg, 0.133 mmol), palladium acetate (10 mg, 0.044 mmol), potassium acetate (223 mg, 2.27 mmol), tetraethylammonium chloride hydrate (151 mg, 0.91 mmol) and degassed DMF (2 mL). A rubber septum was used to seal the tube and the contents were then flushed several times with argon, then closed tightly with a cap. The mixture was heated at 110° C. under argon for 18 hours, cooled to room temperature then diluted with 200 mL ethyl acetate. The organic layer was washed with sat. NaHCO3, then brine and dried over Na2SO4. Evaporation of the solvent and purification of the residue by flash chromatography on silica gel, using 5% ethyl acetate in hexanes, afforded the title compound (35 mg, 52%) as white solid. 1H NMR (CDCl3) □2.79-2.84 (m, 2H), 4.25 (t, 2H, J=5.7 Hz), 5.06-5.08 (m, 1H), 6.19 (d, 1H, J=1.6 Hz), 7.08-7.17 (m, 2H), 8.20 (dd, 1H, J=1.6, 4.7 Hz); ES-MS m/z 148.0 (M+H).

reactant | 2-Bromo-3-but-3-enyloxy-pyridine | 0.45 mmol, 106 mg | BrC1=NC=CC=C1OCCC=C | C9H10BrNO
reactant | triphenylphosphine | 0.133 mmol, 35 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium acetate | 2.27 mmol, 223 mg | C(C)(=O)[O-].[K+]
catalyst | tetraethylammonium chloride hydrate | 0.91 mmol, 151 mg | O.[Cl-].C(C)[N+](CC)(CC)CC
catalyst | palladium acetate | 0.044 mmol, 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Methylene-3,4-dihydro-2H-pyrano[3,2-b]pyridine | 35 mg, 52% | C=C1CCOC=2C1=NC=CC2 | C9H9NO
